US07795253B2
1-[4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin -8-yl)phenyl]ethanone
3 mmol of methylmagnesium bromide solution (3M in diethyl ether) are added to a solution of 0.97 mmol of 4-(5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)-N-methoxy-N-methylbenzamide in 10 ml of absolute tetrahydrofuran under argon. The reaction solution is stirred at room temperature for 4 hours and then poured into saturated aqueous ammonium chloride solution and extracted with tert-butyl methyl ether. The combined organic phases are dried over magnesium sulphate and evaporated. The title compound is obtained as a beige solid from the residue by flash chromatography (SiO2 60F).

reactant | methylmagnesium bromide | 3 mmol, 3M | C[Mg]Br
reactant | 4-(5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)-N-methoxy-N-methylbenzamide | 0.97 mmol | C=1N=CN2C1C(OCC2)C2=CC=C(C(=O)N(C)OC)C=C2 | C15H17N3O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-[4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin -8-yl)phenyl]ethanone | C=1N=CN2C1C(OCC2)C2=CC=C(C=C2)C(C)=O | C14H14N2O2
